US06956050B2
STEP. 1 4-(2-Hydroxyethyl)phenylboronic acid
To a stirred solution of 4-bromophenethylalcohol (5.00 g, 24.9 mmol) in tetrahydrofuran (80 mL) was added a solution of 1.5 M n-BuLi in hexane (39.8 mL, 59.7 mmol) at −78° C. over 30 min. After 1 hour, a solution of triisopropyl borate (8.61 mL, 37.3 mmol) in tetrahydrofuran (20 mL) was added slowly to the mixture at −78° C. The resulting mixture was warmed to room temperature, and treated with 2 M HCl (100 mL) for 1 hour. This mixture was extracted with dichloromethane and the combined organic phase was dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with dichloromethane/methanol (20:1) to afford 2.61 g (63%) of the title compound as white solids: MS (ESI) m/z 165 [M−H]−, 1H-NMR (CD3OD) δ 2.77 (2H, t, J=7.2 Hz), 3.70 (2H, t, J=7.2 Hz), 7.13-7.19 (2H, m), 7.48-7.64 (2H, m).

reactant | 4-bromophenethylalcohol | 24.9 mmol, 5.00 g | BrC1=CC=C(CCO)C=C1 | C8H9BrO
reactant | n-BuLi | 1.5 M | [Li]CCCC
reactant | hexane | 59.7 mmol, 39.8 mL | CCCCCC | C6H14
reactant | triisopropyl borate | 37.3 mmol, 8.61 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 2 M, 100 mL | Cl | ClH
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(2-Hydroxyethyl)phenylboronic acid | 2.61 g, 63% | OCCC1=CC=C(C=C1)B(O)O | C8H11BO3
